US07173133B2
rac-4-Phenyl-2,8-diaza-spiro[4.5]decan-1-one
To a solution of ethyl isonipecotate (20 g, 127 mmol) in dioxane:water (1:1, 120 mL) was added triethylamine (12.87 g, 127 mmol) at 0° C. followed by di-tert-butyl dicarbonate (35.2 g, 161 mmol) and the resulting mixture maintained at this temperature for 2 h. The product was then extracted with ethyl acetate (3×100 mL) and the combined organic extracts washed with HCl (1 N, 100 mL), brine (100 mL), dried over sodium sulfate, filtered and evaporated. Purification by Kugelrohr distillation afforded the title compound (29.0 g, 89%) as a colourless liquid, bp 140° C. at 0.13 mbar. MS: m/e=275.2 (M+NH4).

reactant | ethyl isonipecotate | 127 mmol, 20 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 127 mmol, 12.87 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 161 mmol, 35.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxane water | 120 mL | O1CCOCC1.O
product | rac-4-Phenyl-2,8-diaza-spiro[4.5]decan-1-one | 29.0 g, 89% | C1(=CC=CC=C1)C1CNC(C12CCNCC2)=O | C14H18N2O
